Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall/Skull fracture
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ female transfer from outside hospital to ___
ED for a skull fracture and pneumocephalus seen on OSH imaging.
The patient reports that she was playing basketball when she 
fell
backwards, stiking her head. She reports having double vision at
the OSH, which has since self-resolved. She received 2 grams of
ancef prior to transfer to ___. She currently describes a
posterior headache, and mild nausea without vomiting. 

 
Past Medical History:
migraines 

 
Social History:
___
Family History:
N/A
 
Physical Exam:
Exam on Admission
Gen: Sitting upright in c-collar. WD/WN, comfortable, NAD.

HEENT: 
Pupils: PERRL 3-2mm        
EOMs: Intact
ears/nose: no frank fluid or drainage appreciated 
Neck: in c-collar 

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension. No dysarthria 
or
paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light,3 to 2mm
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch, propioception intact
bilaterally.

EXAM ON DISCHARGE: 
Gen: Sitting upright in c-collar. WD/WN, comfortable, NAD.

HEENT: 
Pupils: PERRL 3-2mm        
EOMs: Intact
ears/nose: no frank fluid or drainage appreciated 

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension. No dysarthria 
or
paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light,3 to 2mm
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch
 
Pertinent Results:
Head/Neck CTA
1. Nondisplaced comminuted fracture of the left temporal 
occipital calvarium, as described. 
2. Trace left venous epidural hematoma containing air just 
superficial to the left transverse sigmoid sinus. 
3. Prominent arachnoid granulation at the left transverse 
sigmoid junction, without evidence of venous sinus thrombosis. 
4. Partial fluid opacification of the left mastoid air cells and 
middle ear consistent with hemorrhage. 
5. Patent head and neck vasculature. 

___: CT ORBITS, SELLA & IAC 
IMPRESSION:  
  
Predominantly transverse fracture through the left temporal bone 
mastoid 
process.  This appears to exit at the level of the styloid 
mastoid foramen.  Ossicles appear intact and the superior 
semicircular canal appears covered.  Findings are associated 
with near complete opacification of the mastoid air cells. 
  

 
Brief Hospital Course:
On ___, the patient was playing basket ball when she tripped 
and fell backwards striking her head.  She was brought to an 
outside hospital for evaluation after complaining of dizziness 
and blurred vision.  CT at OSH revealed a small basilar skull 
fracture and question of venous sinus thormbosis.  She was then 
transported to ___ for further evaluation and management.

On ___, the patient remained stable with a nonfocal neuro exam, 
but complained of headache and nausea.  She had a head and neck 
CTA which again showed the basilar skull fracture, but the sinus 
thombosis was thought to be arachnoid granulation.

On ___, she remained neurologically and hemodynamically intact. 
Physical therapy and occupational therapy were consulted, 
attempted to evaluate pt but the patient was very nauses and 
dizzy. 

On ___, the patient remained neurologically and 
hemodynamically stable. She made significant gains with physical 
therapy. Ophtho saw the patient to address right eye blurred 
vision and photophobia. All consulting teams have left 
recommendations for follow up that have been included in her 
discharge summary. The patient's mother will provide 24 hour 
supervision. 
 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
DO NOT EXCEED 4000MG TYLENOL IN 24 HOURS 
2. Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN headache 
THIS CONTAINS TYLENOL. DO NOT EXCEED 4000mg TYLENOL IN 24 HOURS 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg 1 tablet(s) 
by mouth q8H prn Disp #*25 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
4. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth q8H prn Disp #*25 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Skull fracture, Temporal bone fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Discharge Instructions

Traumatic Brain Injury

Activity
"We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
"You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
Don't try to do too much all at once.
"No driving while taking any narcotic or sedating medication. 
"If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
"No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
"Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
"You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
"You may have difficulty paying attention, concentrating, and 
remembering new information.
"Emotional and/or behavioral difficulties are common. 
"Feeling more tired, restlessness, irritability, and mood 
swings are also common.
"Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
"Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
"Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
"Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
"There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
"You were given information about headaches after TBI and the 
impact that TBI can have on your family.
"If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

 
Followup Instructions:
___